US09144557B2
Preparation of 3-amino-N-(3-methoxyphenethyl)propanamide:
tert-butyl (3-((3-methoxyphenethyl)amino)-3-oxopropyl)carbamate was dissolved in dichloromethane (0.5 mL) then the solution was cooled to 0° C. in an ice bath. Trifluoroacetic acid (300 μL) was added then the solution was allowed to warm slowly to room temperature with stirring. Upon completion of the reaction the solvent is removed under reduced pressure to give crude product which is used without further purification.

reactant | tert-butyl (3-((3-methoxyphenethyl)amino)-3-oxopropyl)carbamate | COC=1C=C(CCNC(CCNC(OC(C)(C)C)=O)=O)C=CC1 | C17H26N2O4
reactant | Trifluoroacetic acid | 300 μL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
product | 3-amino-N-(3-methoxyphenethyl)propanamide | NCCC(=O)NCCC1=CC(=CC=C1)OC | C12H18N2O2
